US05300498
2-Fluoro-6-(4-methyl-1-piperazinyl)pyridine-3-carboxaldehyde acetylhydrazone
2-Fluoro-6-(4-methyl-1-piperazinyl)pyridine-3-carboxaldehyde (3.35 g, 0.015 mole) was dissolved in 20 mL of EtOH and treated with acetylhydrazine (2.2 g, 0.030 mole). This reaction mixture was stirred for 72 hours and then the product was filtered off and recrystallized from EtOAc to give 2.85 g, mp 210°-212° C.

reactant | 2-Fluoro-6-(4-methyl-1-piperazinyl)pyridine-3-carboxaldehyde | 0.015 mole, 3.35 g | FC1=NC(=CC=C1C=O)N1CCN(CC1)C | C11H14FN3O
reactant | acetylhydrazine | 0.030 mole, 2.2 g | C(C)(=O)NN | C2H6N2O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-Fluoro-6-(4-methyl-1-piperazinyl)pyridine-3-carboxaldehyde acetylhydrazone | C(C)(=O)NN=CC=1C(=NC(=CC1)N1CCN(CC1)C)F | C13H18FN5O
